US07582652B2
3-(2,2-Dimethyl-propyl)-5-(4-fluoro-phenylethyl)-3H-imidazo[4,5-b]pyridin-2-ylamine
Add triethylamine (27.10 g, 267.80 mmol) to a mixture of 5-bromo-3-(2,2-dimethyl-propyl)-3H-imidazo[4,5-b]pyridin-2-yl-ammonium bromide (25.00 g, 68.67 mmol) in ethanol (25 mL) and toluene (75 mL). Heat to 70-75° C. and then add Pd(OAc)2 (0.15 g, 0.69 mmol), triphenylphosphine (0.72 g, 2.75 mmol), and copper (I) iodide (0.13 g, 0.69 mmol). Add ⅔ of a solution of 4-fluorophenylacetylene (12.37 g, 103.00 mmol) in toluene (50 mL, 2.0 vol.) over 15 minutes. Add the remaining 4-fluoroacetylene solution after 1 h. After 3 h, add additional 4-fluorophenylacetylene (1.5 g, 12.86 mmol). After an additional hour, remove EtOH by distillation. Cool the reaction mixture to <40° C. and add water (25 mL). Cool to room temperature. Filter suspension and wash with water (25 mL) and 2×25 mL toluene. Dry under reduced pressure at 45-50° C. to provide 19.3 g (87%) of the desired compound.

reactant | triethylamine | 267.80 mmol, 27.10 g | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-3-(2,2-dimethyl-propyl)-3H-imidazo[4,5-b]pyridin-2-yl-ammonium bromide | 68.67 mmol, 25.00 g | [Br-].BrC1=CC=C2C(=N1)N(C(=N2)[NH3+])CC(C)(C)C
reactant | 4-fluorophenylacetylene | 103.00 mmol, 12.37 g | FC1=CC=C(C=C1)C#C | C8H5F
reactant | 4-fluorophenylacetylene | 12.86 mmol, 1.5 g | FC1=CC=C(C=C1)C#C | C8H5F
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.69 mmol, 0.15 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | copper (I) iodide | 0.69 mmol, 0.13 g | [Cu]I
catalyst | triphenylphosphine | 2.75 mmol, 0.72 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-(2,2-Dimethyl-propyl)-5-(4-fluoro-phenylethyl)-3H-imidazo[4,5-b]pyridin-2-ylamine | 19.3 g, 87% | CC(CN1C(=NC=2C1=NC(=CC2)CCC2=CC=C(C=C2)F)N)(C)C | C19H23FN4
